datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH2:10]C)[O:12]1.O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[CH2:10][CH:20]1[C:21](=[N+:22]([O-:23])[O-:33])[CH:42]=[C:43]([N+](=O)[O-])[S:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[N:12]([C:11]2=[CH:10]CC[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1.C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[N:23](C)[CH:22]=[CH:21][CH:20]([CH:10]1CC[C:63]2=[C:62]([C:11]1=[N+:12]1CCCC1)[CH:73]=[CH:74][CH:65]=[CH:64]2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si:61](C)(C)[CH:10]=[N+:11]=[N-:12].ClC[N+]12CC[N+:21]([F:20])(CC1)CC2>>C[Si:61](C)(C)[CH:10]([N+:11]#[N:12])[F:20].ClC[N+]12CC[N:21](CC1)CC2 10,11=10,20;12=11,12;20,21=21"
"FC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:14]1[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>FC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N+:14]1=[C:13]1[CH:12]=[CH:11][N:10]([C:20]([C:31]2=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;14=13,14"
C1C[O:72][C:61](=[O:62])[N-:10]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C:20]([N:10]2CC[O:72][C:61]2=[O:62])([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10=20
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25].[CH:10](=[N+:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([Br:65])[CH:73]=[CH:72]1>>C[C:21]([CH:20]([CH:10]([N+:11]#[N:12])[C:61]1=[CH:62][CH:63]=[C:64]([Br:65])[CH:73]=[CH:72]1)[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](N)[O-:25] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:11]2=[N:10]CCC[NH:12]2)C=C1.CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[N:10]2CCC[NH+:12]=[C:11]2C2=CC=CC=C2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1.C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1>>C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N+:12]2=[CH:11][CH:10](C2=CC=CC=C2)[F:20])C=C1.C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1CC[C:20](=[O:21])CC1.CC1=CC=C([C@H]2N(C)C(=O)[C@H](CC3=CC=CC=C3)[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)O1>>CC1=CC=C([C@H]2N(C)C(=O)[C@H](CC3=CC=CC=C3)[N+:12]2=[CH:11][CH:10](C2=CC=CC=C2)[C:20]2([O-:21])CCCCC2)O1 10,11=10,20;12=11,12;20,21=21"
"C[C:72]1=[CH:71][N-:10][CH:61]=[N:62]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>C[C:72]1=[CH:71][N:10]([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]3=[N:35]O[N:42]=[C:41]23)[CH:61]=[N:62]1 10=20;20,21=21,22;22,23=23"
"CCC[C:20](C)=[O:21].CC[O:62]/[C:11](=[CH:10]/[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[O-:12]>>CCC[C:20](C)([CH:10]([C:11](=[O:12])[O:62]CC)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[O-:21] 10,11=10,20;12=11,12;20,21=21"
"CCCC[C-:10]([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C>>CCCC[C:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC 10=20;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21.[NH-:10][C:61]#[N:62]>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([NH:10][C:61]#[N:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[CH:22]1 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32].C[Si:73](C)(C)[CH2:72][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>CC[O:33][C:31]([C:20]1([CH2:10][C+:11]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH2:72][Si:73](C)(C)C)CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
